US09278915B2
Intermediate 102: Methyl 3-[4-(benzyloxy)-2-methoxyphenyl]-3-cyanopropanoate
To a 25 mL RB flask fitted with magnetic stirrer was charged with methanol (10 mL). To the stirred solvent was added 3-[4-(benzyloxy)-2-methoxyphenyl]-3-cyanopropanoic acid (0.62 g, 2.56 mmol) and methane sulfonic acid (1 mL), it was heated at 65° C. for 2 h. The RM was concentrated, extracted with ethyl acetate (50 mL×2). The organic layer was washed with water (50 mL) and saturated brine solution (50 mL). The organic layer was dried over anhydrous Na2SO4 and the solvent was removed under reduced pressure. The product was obtained as brown liquid. (0.65 g, yield: 100.0%).

reactant | 3-[4-(benzyloxy)-2-methoxyphenyl]-3-cyanopropanoic acid | 2.56 mmol, 0.62 g | C(C1=CC=CC=C1)OC1=CC(=C(C=C1)C(CC(=O)O)C#N)OC | C18H17NO4
reactant | methane sulfonic acid | 1 mL | CS(=O)(=O)O | CH4O3S
solvent | methanol | 10 mL | CO | CH4O
product | Methyl 3-[4-(benzyloxy)-2-methoxyphenyl]-3-cyanopropanoate | yield: 100.0% | C(C1=CC=CC=C1)OC1=CC(=C(C=C1)C(CC(=O)OC)C#N)OC | C19H19NO4
